US04122090
5. N-tert.-Butoxycarbonyl-L-proline-L-proline-L-alanine-L-phenylalanine methyl ester
341 mg of triethylamine are added to a mixture of 500 mg of Pro-Ala-Phe-OMe.HCl D 4 and 647 mg of Boc-Pro≈SO2 in 20 ml of absolute tetrahydrofuran whereupon the mixture develops a deep red coloration. It is stirred for 1 hour at 20° C. The pale yellow mixture is then worked up as described in Example D 1.

reactant | triethylamine | 341 mg | C(C)N(CC)CC | C6H15N
reactant | Pro-Ala-Phe-OMe.HCl | 500 mg | N1[C@H](C(=O)N[C@@H](C)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)OC)CCC1.Cl
reactant | Boc-Pro | 647 mg | N1([C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C10H17NO4
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-tert.-Butoxycarbonyl-L-proline L-proline L-alanine L-phenylalanine methyl ester | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CCC1.N1[C@H](C(=O)O)CCC1.N[C@@H](C)C(=O)O.COC([C@@H](N)CC1=CC=CC=C1)=O | InChI=1S/C10H17NO4.C10H13NO2.C5H9NO2.C3H7NO2/c1-10(2,3)15-9(14)11-6-4-5-7(11)8(12)13;1-13-10(12)9(11)7-8-5-3-2-4-6-8;7-5(8)4-2-1-3-6-4;1-2(4)3(5)6/h7H,4-6H2,1-3H3,(H,12,13);2-6,9H,7,11H2,1H3;4,6H,1-3H2,(H,7,8);2H,4H2,1H3,(H,5,6)/t7-;9-;4-;2-/m0000/s1
